US04016148
In a manner analogous to that given in Example 35 (b), from the benzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-L-valyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(L-valylamino)-ethylphosphonic acid of melting point 276°-277° C (decomposition); [α]D20 = - 9.3° (c = 0.5% in water).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-L-valyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)P(O)(O)=O | C15H23N2O6P
product | (1R)-1-(L-valylamino)-ethylphosphonic acid | N[C@@H](C(C)C)C(=O)N[C@@H](C)P(O)(O)=O | C7H17N2O4P
